US05583134
(e) 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)pyrrolidine
A solution of hydrogen chloride in ether is added to a solution of 3.4 g of 3-tetrahydropyranyloxyethyl-3-(3,4-dichlorophenyl)pyrrolidine in 20 ml of methanol until the pH is 1. The mixture is stirred for half an hour at room temperature and concentrated to dryness, the residue is taken up in water, rendered basic with a solution of sodium hydroxide and extracted with dichloromethane and the extract is washed with a saturated solution of NaCl, dried over Na2SO4 and evaporated to dryness to give an oil. This oil is taken up in 20 ml of an isopropyl ether/ether mixture (50/50 v/v). After stirring and filtration, the product is washed with ethyl ether and dried under vacuum over P2O5. 2.6 g of the expected product are isolated.

reactant | hydrogen chloride | Cl | ClH
reactant | 3-tetrahydropyranyloxyethyl-3-(3,4-dichlorophenyl)pyrrolidine | 3.4 g | O1C(CCCC1)OCCC1(CNCC1)C1=CC(=C(C=C1)Cl)Cl | C17H23Cl2NO2
solvent | ether | CCOCC | C4H10O
solvent | methanol | 20 ml | CO | CH4O
solvent | isopropyl ether ether | 20 ml | C(C)(C)OC(C)C.CCOCC
product | 3-(2-Hydroxyethyl)-3-(3,4-dichlorophenyl)pyrrolidine | 2.6 g | OCCC1(CNCC1)C1=CC(=C(C=C1)Cl)Cl | C12H15Cl2NO
